US06818772B2
4-({4-((7-chloroquinolin-4-yl)amino)cyclohexyl}amino)-6-methyl-2H-chromen-2-one
To a conical microwave vessel (7.5 mL) equipped with a septum cap and a magnetic stirring bar was added a solution of a trifluoro-methanesulfonic acid 6-chloro-2-oxo-2H-chromen-4-yl ester (0.014 g; 0.043 mmol)) in dry acetonitrile (1 mL) containing Et3N (0.025 mL). Then, a solution of N-(7-chloro-quinolin-4-yl)-cyclohexane-1,4-diamine (0.0178 g; 1.5 eq.) in 1:1:1 mixture of acetonitrile/dichloromethane/DMF (1 mL) was added to the vessel and the resulting suspension was irradiated in Personal Chemistry Smith Synthesizer (150° C. for 180 s; 300 W). The resulting solution was evaporated to dryness. The residue was dissolved in 1.5 mL of a 1:1 mixture of DMSO/MeOH and purified by preparative reverse-phase HPLC. MS (DCI/NH3) m/z 433 [M+H]+.

reactant | trifluoro-methanesulfonic acid 6-chloro-2-oxo-2H-chromen-4-yl ester | 0.043 mmol, 0.014 g | ClC=1C=C2C(=CC(OC2=CC1)=O)OS(=O)(=O)C(F)(F)F | C10H4ClF3O5S
reactant | Et3N | 0.025 mL | CCN(CC)CC | C6H15N
reactant | N-(7-chloro-quinolin-4-yl)-cyclohexane-1,4-diamine | 0.0178 g, 1.5 eq. | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)N | C15H18ClN3
reactant | acetonitrile dichloromethane DMF | 1 mL | C(C)#N.ClCCl.CN(C)C=O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 4-({4-((7-chloroquinolin-4-yl)amino)cyclohexyl}amino)-6-methyl-2H-chromen-2-one | ClC1=CC=C2C(=CC=NC2=C1)NC1CCC(CC1)NC1=CC(OC2=CC=C(C=C12)C)=O | C25H24ClN3O2
